US07504508B2
To a solution of 2-[{(2S,4R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl}(4-chlorophenyl)amino]-2-oxoethyl acetate (500 mg, 0.82 mmol, 1 equ.) in ethanol (6 mL) and water (1 mL) was added potassium hydroxide (229 mg, 4.1 mmol, 5 equ.). The mixture was heated to 70° C. for 4 h. The mixture was neutralized with 1N aqueous HCl and extracted with ethyl acetate. The organic layer was separated, washed with a saturated aqueous solution of sodium bicarbonate and twice with brine, dried over sodium sulfate, filtered and concentrated to give crude N-(4-chlorophenyl)-2-hydroxy-N-[(2S,4R)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide used as such in the next step.

reactant | 2-[{(2S,4R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl}(4-chlorophenyl)amino]-2-oxoethyl acetate | 0.82 mmol, 500 mg | C(C)(=O)OCC(=O)N(C1=CC=C(C=C1)Cl)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C | C29H23ClF6N2O4
reactant | potassium hydroxide | 4.1 mmol, 229 mg | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | N-(4-chlorophenyl)-2-hydroxy-N-[(2S,4R)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | ClC1=CC=C(C=C1)N(C(CO)=O)[C@@H]1C[C@@H](NC2=CC=CC=C12)C | C18H19ClN2O2
